US07829572B2
Preparation of Methyl 4-azido-2-(trifluoromethyl)nicotinate
To a stirred solution of methyl 4-chloro-2-(trifluoromethyl)nicotinate (9.75 g, 40.7 mmol) in DMF (300 mL) is added sodium azide (21.2 g, 326 mmol). The solution is warmed to 45° C. for 3 hours and then to 50° C. for 1 hour. The reaction is diluted with water (300 mL) and extracted with ether-pentane (1:1, ca. 1 L). The organic layer is back extracted with water (3×). The organic layer is dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to afford 9.50 g (95%) of the title compound as a brown oil: 1H NMR (400 MHz, CD3OD), 8.651 (d, 1H), 7.603 (d, 1H), 3.878 (s, 3H).

reactant | methyl 4-chloro-2-(trifluoromethyl)nicotinate | 40.7 mmol, 9.75 g | ClC1=CC=NC(=C1C(=O)OC)C(F)(F)F | C8H5ClF3NO2
reactant | sodium azide | 326 mmol, 21.2 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
solvent | water | 300 mL | O | H2O
product | Methyl 4-azido-2-(trifluoromethyl)nicotinate | 9.50 g, 95% | N(=[N+]=[N-])C1=CC=NC(=C1C(=O)OC)C(F)(F)F | C8H5F3N4O2
